US08685969B2
2. 7-(2-Hydroxypropoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of 4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-7-(2-oxoethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (178 mg, 85% purity, 0.300 mmol) in tetrahydrofuran (10 mL) at 0° C. was added methylmagnesium bromide (0.707 mL, 2.121 mmol). The mixture was stirred at rt for 20 min. Additional methylmagnesium bromide (0.50 mL, 1.50 mmol) was added. The mixture was stirred at room temperature for another 20 min and then the reaction was quenched with water (20 mL). The resulting mixture was extracted with ethyl acetate (3×40 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. After solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fractions were combined and concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (7.6 mg, 0.014 mmol, 4.9% yield) as a yellow solid. LCMS (M+H)+=520.21. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.68 (s, 1H), 8.44 (s, 1H), 8.21 (s, 1H), 7.36 (s, 1H), 4.01 (m, 1H), 3.92-3.84 (m, 2H), 1.81 (s, 3H).

reactant | 4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-7-(2-oxoethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.300 mmol, 178 mg | CC1=C(C=CC=C1N1C=NC2=CC=CC=C2C1=O)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCC=O)C(=O)N | C29H21N5O4
reactant | methylmagnesium bromide | 2.121 mmol, 0.707 mL | C[Mg]Br
reactant | methylmagnesium bromide | 1.50 mmol, 0.50 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-(2-Hydroxypropoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.014 mmol, 7.6 mg, 4.9% yield | OC(COC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N)C | C30H25N5O4
